US08202858B2
4-{3-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-3-oxo-propyl}-3-methyl-benzoic Acid
Lithium hydroxide monohydrate (2.4 g, 56.7 mmol) was added to a solution of 4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-3-oxo-propyl}-3-methyl-benzoic acid methyl ester from Example E44.1 (8.5 g, 22.7 mmol) in THF (200 ml) and water (100 ml). The mixture was stirred for 24 h at room temperature then solvents were removed in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 2% acetic acid:4% methanol:94% dichloromethane) to yield the title compound (8.1 g, 99%).

reactant | Lithium hydroxide monohydrate | 56.7 mmol, 2.4 g | O.[OH-].[Li+]
reactant | 4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-3-oxo-propyl}-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CCC(=O)N1CCN(CC1)CCC(C)(C)C)C)=O | C22H34N2O3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-{3-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-3-oxo-propyl}-3-methyl-benzoic Acid | 8.1 g, 99% | CC(CCN1CCN(CC1)C(CCC1=C(C=C(C(=O)O)C=C1)C)=O)(C)C | C21H32N2O3
